US08748446B2
Synthesis of 4,6-diiodo-1,2,3,3-tetramethyl-3H-indolium iodide
1.05 g (2.5 mmol) of 4,5,6-triiodo-2,3,3-trimethyl-3H-indole and 2 mL of iodomethane were heated at 45° C. for 6 hours in a sealed tube. The formed precipitate was filtered, washed with acetone. Yield: 900 mg. 1H-NMR (300 MHz, DMSO-d6), δ, ppm: 8.37 (2H, d, 5.4 Hz, arom.), 3.92 (3H, s, NCH3), 2.79 (3H, s, CH3), 1.61 (6H, s, C(CH3)2).

reactant | 4,5,6-triiodo-2,3,3-trimethyl-3H-indole | 2.5 mmol, 1.05 g | IC1=C2C(C(=NC2=CC(=C1I)I)C)(C)C | C11H10I3N
reactant | iodomethane | 2 mL | IC | CH3I
product | 4,6-diiodo-1,2,3,3-tetramethyl-3H-indolium iodide | [I-].IC1=C2C(C(=[N+](C2=CC(=C1)I)C)C)(C)C | InChI=1S/C12H14I2N.HI/c1-7-12(2,3)11-9(14)5-8(13)6-10(11)15(7)4;/h5-6H,1-4H3;1H/q+1;/p-1
